US05981572
Methanesulfonic acid 2-(2,3-dihydrobenzofuran-4-yl)-ethyl ester
A solution of 2-(2,3-dihydrobenzofuran-4-yl)-ethanol (1.13 g) in dichloromethane (11 ml) was treated with triethylamine (1.25 ml), followed by methanesulfonyl chloride (0.64 ml). After 5 min the reaction mixture was poured into 2M hydrochloric acid (10 ml) and extracted with dichloromethane (2×10 ml). The combined extracts were washed with water (10 ml), dried (Na2SO4) and the solvent evaporated to give the title compound (1.76 g) as a yellow oil.

reactant | 2-(2,3-dihydrobenzofuran-4-yl)-ethanol | 1.13 g | O1CCC2=C1C=CC=C2CCO | C10H12O2
reactant | triethylamine | 1.25 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.64 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 2M, 10 ml | Cl | ClH
solvent | dichloromethane | 11 ml | ClCCl | CH2Cl2
product | Methanesulfonic acid 2-(2,3-dihydrobenzofuran-4-yl)-ethyl ester | 1.76 g | O1CCC2=C1C=CC=C2CCOS(=O)(=O)C | C11H14O4S
